US07915271B2
methyl 2″-{(4R,5R)-3-[3,5-bis(trifluoromethyl)benzyl]-4-methyl-2-oxo-1,3-oxazolidin-5-yl}-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate (21 mg, 0.029 mmol), lithium hydroxide monohydrate (9 mg, 0.21 mmol), water (0.4 mL) and 1,4-dioxane (1 mL) were stirred at 20° C. for 2 hours to complete the hydrolysis. The reaction mixture was acidified by HCl (aq., 1 mL). The resulting crude mixture was worked up with ethyl acetate. The combined organic extracts were dried over Na2SO4, filtered, and concentrated to a clear oil. This oil was purified by a preparative reverse-phase HPLC (Kromasil 100-5C18, 100×21.1 mm) eluted with a MeCN (0.1% TFA, v/v)/H2O (0.1% TFA, v/v) gradient mixture. Related fractions were pooled and evaporated to afford 2″-{(4R,5R)-3-[3,5-bis(trifluoromethyl)benzyl]-4-methyl-2-oxo-1,3-oxazolidin-5-yl}-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic acid. LCMS calc.=711.17; found=712.28 (M+1)+. 1H NMR signals are doubled because of atropoisomerism. 1H NMR (CDCl3, 500 MHz) δ 8.01 (s, 0.4H), 7.97 (s, 0.6H), 7.95 (d, J=7.0 Hz, 0.4H), 7.93 (d, J=6.5 Hz, 0.6H), 7.81 (s, 0.4H), 7.77 (s, 0.6H), 7.75 (s, 0.4H), 7.71 (s, 0.6H), 7.68 (d, J=6.5 Hz, 0.6H), 7.66 (d, J=6.5 Hz, 0.4H), 7.62 (s, 1H), 7.55 (s, 1H), 7.41-7.35 (m, 2H), 7.32 (d, J=6.5 Hz, 0.4H), 7.23 (d, J=6.5 Hz, 0.6H), 7.16 (d, J=2 Hz, 0.4H), 7.08 (d, J=7.5 Hz, 0.6H), 7.02 (d, J=7.5 Hz, 0.4H), 6.98 (d, J=2.0 Hz, 0.6H), 5.22 (d, J=4 Hz, 0.6H), 5.13 (d, J=4.5 Hz, 0.4H), 4.82, 4.75 (d, J=13.5 Hz, 1H), 4.29, 4.26 (d, J=15.5 Hz, 1H), 3.86 (s, 1.8H), 3.59 (s, 1.2H), 3.53-3.48 (m, 0.4H), 3.30-3.24 (m, 0.6H), 2.36, 2.22 (s, 3H), 0.89, 0.75 (d, J=5.5 Hz, 3H).

reactant | methyl 2″-{(4R,5R)-3-[3,5-bis(trifluoromethyl)benzyl]-4-methyl-2-oxo-1,3-oxazolidin-5-yl}-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | 0.029 mmol, 21 mg | FC(C=1C=C(CN2C(O[C@@H]([C@H]2C)C2=C(C=CC(=C2)C(F)(F)F)C=2C=C(C=CC2OC)C2=C(C=C(C=C2)C(=O)OC)C)=O)C=C(C1)C(F)(F)F)(F)F | C36H28F9NO5
reactant | lithium hydroxide monohydrate | 0.21 mmol, 9 mg | O.[OH-].[Li+]
reactant | water | 0.4 mL | O | H2O
reactant | HCl | 1 mL | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 2″-{(4R,5R)-3-[3,5-bis(trifluoromethyl)benzyl]-4-methyl-2-oxo-1,3-oxazolidin-5-yl}-4′-methoxy-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic acid | FC(C=1C=C(CN2C(O[C@@H]([C@H]2C)C2=C(C=CC(=C2)C(F)(F)F)C=2C=C(C=CC2OC)C2=C(C=C(C=C2)C(=O)O)C)=O)C=C(C1)C(F)(F)F)(F)F | C35H26F9NO5
